US04107310
33.3 g of propionyl chloride were added over 30 minutes at 20°-30° C to a mixture of 480 ml of acetone, 48.3 g of o-trifluoromethyl aniline and 36.42 g of triethylamine and after standing for 12 hours, the mixture was filtered. The acetone was evaporated from the filtrate and the residue was taken up in 500 ml of ethyl acetate. The solution was washed with 10% potassium carbonate solution, then with water until the pH of the wash waters was 6, then with N hydrochloric acid and then with water until the wash water pH was 6. The solution was dried over magnesium sulfate, treated with activated carbon and then evaporated to dryness to obtain 65 g of raw product which was washed with iced essence G to obtain 43 g of N-(2-trifluoromethylphenyl)-propanamide melting at 86° C.

reactant | propionyl chloride | 33.3 g | C(CC)(=O)Cl | C3H5ClO
reactant | acetone | 480 ml | CC(=O)C | C3H6O
reactant | o-trifluoromethyl aniline | 48.3 g | FC(C1=C(N)C=CC=C1)(F)F | C7H6F3N
solvent | triethylamine | 36.42 g | C(C)N(CC)CC | C6H15N
product | N-(2-trifluoromethylphenyl)-propanamide | 43 g | FC(C1=C(C=CC=C1)NC(CC)=O)(F)F | C10H10F3NO
